US07893085B2
3-(4-Bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
A solution of 3-(4-bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (18 mg, 0.036 mmol) in methanol (1 ml) was loaded onto an Isolute® SCX-2 cartridge (5 g). The cartridge was then washed with methanol (15 ml) before the desired product was eluted using 2M ammonia in MeOH and the eluent collected then concentrated to give a residue. The residue was purified by flash chromatography (Si-SPE, DCM:MeOH, gradient 100:0 to 94:6) to afford the title compound as an off white solid (9 mg, 53%): LCMS (method A): RT=5.59 min, M+H+=456/458. 1H NMR (d4-MeOH, 400 MHz) 8.60 (s, 1H), 8.40 (d, J=5.7 Hz, 1H), 7.94 (d, J=5.7 Hz, 1H), 7.39 (dd, J=10.6 Hz, 2.2 Hz, 1H), 7.16 (d, J=8.5 Hz, 1H), 6.80 (dd, J=8.5 Hz, 8.5 Hz, 1H), 4.01-4.10 (m, 1H), 3.89-4.00 (m, 2H), 3.57-3.67 (m, 2H).

reactant | 3-(4-bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.036 mmol, 18 mg | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)Br)F)C | C20H19BrFN3O4S
solvent | methanol | 1 ml | CO | CH4O
product | 3-(4-Bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | O[C@@H](CONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)Br)F)CO | C17H15BrFN3O4S
